US05998433
c) Synthesis of N,N-dimethyl-[5-(2-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(2-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.155 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(2-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.155 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C24H24N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-(2-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | InChI=1S/C24H24N2O3.ClH/c1-25(2)16-19-14-18-15-26(13-12-22(18)29-19)24(28)21-11-7-6-10-20(21)23(27)17-8-4-3-5-9-17;/h3-11,14H,12-13,15-16H2,1-2H3;1H
